US08202873B2
N-{4-[4-(1-Ethyl-5-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-benzyl}-methanesulfonamide hydrochloride
Combine 3′-chloro-4-(1-ethyl-5-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.300 g, 0.935 mmol), potassium carbonate (0.310 g, 2.24 mmol), (4-methanesulfonylaminomethylphenyl)boronic acid (0.257 g, 1.12 mmol), and tetrakis(triphenylphosphine)palladium(0) (0.011 g, 0.009 mmol) in N,N-dimethylacetamide (1.9 mL). Add water (940 μL), and reflux reaction for 6 hr. Continue to heat at 70° C. for 18 hr. Add (4-methanesulfonylaminomethylphenyl) boronic acid (0.129 g, 0.56 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.011 g, 0.009 mmol) and heat to 115° C. for 6 hr. Continue to stir at ambient temperature over 72 hr. Add DCM and wash with water. Extract water layer three times with DCM. Dry combined organics (magnesium sulfate) and purify (silica gel chromatography, eluting with 50:50 to 100:0 ethyl acetate:hexanes then 10:90 to 20:80 methanol:ethyl acetate), to give the free base of the title compound (371 mg, 85%). Dissolve the free base (0.367 g, 0.781 mmol) in acetonitrile (938 μL) and add aq. 1 N HCl solution (938 μL, 0.938 mmol). Shake for 15 min. at ambient temperature. Freeze dry to give the title compound (397 mg, 100%). MS (ES): m/z=470 [M+H]+.

reactant | 3′-chloro-4-(1-ethyl-5-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.935 mmol, 0.300 g | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1C)CC | C15H21ClN6
reactant | potassium carbonate | 2.24 mmol, 0.310 g | C([O-])([O-])=O.[K+].[K+]
reactant | (4-methanesulfonylaminomethylphenyl)boronic acid | 1.12 mmol, 0.257 g | CS(=O)(=O)NCC1=CC=C(C=C1)B(O)O | C8H12BNO4S
reactant | water | 940 μL | O | H2O
reactant | (4-methanesulfonylaminomethylphenyl) boronic acid | 0.56 mmol, 0.129 g | CS(=O)(=O)NCC1=CC=C(C=C1)B(O)O | C8H12BNO4S
solvent | N,N-dimethylacetamide | 1.9 mL | CN(C(C)=O)C | C4H9NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.009 mmol, 0.011 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.009 mmol, 0.011 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-{4-[4-(1-Ethyl-5-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-benzyl}-methanesulfonamide hydrochloride | 371 mg, 85% | Cl.C(C)N1N=CC(=C1C)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(CNS(=O)(=O)C)C=C1 | InChI=1S/C23H31N7O2S.ClH/c1-4-30-18(2)21(16-26-30)17-28-11-13-29(14-12-28)23-22(24-9-10-25-23)20-7-5-19(6-8-20)15-27-33(3,31)32;/h5-10,16,27H,4,11-15,17H2,1-3H3;1H
